US06346621B1
A 200-mL three-necked flask equipped with a thermometer, a dropping funnel, a three-way stopcock, and a mechanical stirrer was purged with nitrogen. Thereto, were added 1.85 g (76 mmol) of magnesium, and 30 mL of diethyl ether. The dropping funnel was filled with a solution of 13.5 g (69 mmol) of 2,6-dichlorobenzyl chloride (produced by Tokyo Kasei K.K.) in 40 mL of diethyl ether. The solution was added dropwise into the flask by keeping the temperature of the reaction system at about 30° C. Thereafter, the reaction mixture was aged at room temperature for 30 minutes, and cooled with ice. Thereto, 6 g (82 mmol) of N,N-dimethylformamide was added dropwise. The reaction mixture was aged at room temperature for one hour, cooled with ice, and poured into 50 mL of 3N hydrochloric acid solution. The mixture was allowed to separate into phases, and the separated matter was extracted with diethyl ether. The combined organic phase was dried over anhydrous sodium sulfate. After filtration and concentration, 5 mL of methyl t-butyl ether was added to the concentration residue, and the mixture was heated to dissolve the residue. After cooling of the solution to room temperature, the deposited crystalline matter was collected by filtration to obtain 8.1 g (43 mmol) of crystalline 2,6-dichlorophenylacetaldehyde. (Yield: 62%)

reactant | magnesium | 76 mmol, 1.85 g | [Mg] | Mg
reactant | 2,6-dichlorobenzyl chloride | 69 mmol, 13.5 g | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
reactant | N,N-dimethylformamide | 82 mmol, 6 g | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 3N, 50 mL | Cl | ClH
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 2,6-dichlorophenylacetaldehyde | 43 mmol, 8.1 g, Yield: 62% | ClC1=C(C(=CC=C1)Cl)CC=O | C8H6Cl2O
